US04304728
5-Hydroxy-6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylic acid
A solution of ethyl 5-hydroxy-6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate (2.6 g), prepared as described in Example 47, in dioxan (30 ml) and concentrated hydrochloric acid (20 ml) was heated on a steam bath for 2 hours. The solid product was recrystallised from ethanol to give the title product (mp 258°-260° C. with decomposition).

reactant | ethyl 5-hydroxy-6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate | 2.6 g | OC=1C(C=C(OC1C1=CC=C(C=C1)OC)C(=O)OCC)=O | C15H14O6
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | dioxan | 30 ml | O1CCOCC1 | C4H8O2
product | 5-Hydroxy-6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylic acid | OC=1C(C=C(OC1C1=CC=C(C=C1)OC)C(=O)O)=O | C13H10O6
